US05679683
A mixture of 4-methylthioimidazo[4,5-h]quinazoline (0.216 g, 1 mmol), 3-bromoaniline (0.25 g, 1.5 mmol), and 3-bromoaniline hydrochloride (0.31 g, 1.5 mmol) in N-methylpyrrolidone (50 mL) is heated 120° C. for 2 h. The solvent is removed under vacuum and the residue is triturated with EtOH to give a solid which is recrystallized from MeOH to give 4-(3-bromoanilino)imidazo[4,5-h]quinazoline hydrochloride (0.23 g, 61%). 1H NMR (DMSO) δ11.11 (1H, brs), 8.93 (2H, s), 8.66 (1H, d, J=9.0 Hz), 8.11 (1H, brs), 8.07 (1H, d, J=9.0 Hz), 7.83 (1N, brd, J=6.8 Hz), 7.50-7.40 (2H,m).

reactant | 4-methylthioimidazo[4,5-h]quinazoline | 1 mmol, 0.216 g | CSC1=CC=2C=NC=NC2C2=C1N=CN2 | C10H8N4S
reactant | 3-bromoaniline | 1.5 mmol, 0.25 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 3-bromoaniline hydrochloride | 1.5 mmol, 0.31 g | Cl.BrC=1C=C(N)C=CC1
solvent | N-methylpyrrolidone | 50 mL | CN1C(CCC1)=O | C5H9NO
product | 4-(3-bromoanilino)imidazo[4,5-h]quinazoline hydrochloride | 0.23 g, 61% | Cl.BrC=1C=C(NC2=CC=3C=NC=NC3C3=C2N=CN3)C=CC1 | InChI=1S/C15H10BrN5.ClH/c16-10-2-1-3-11(5-10)21-12-4-9-6-17-7-18-13(9)15-14(12)19-8-20-15;/h1-8,21H,(H,19,20);1H
